Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint:  Rectal pain
Reason for MICU transfer:  Hypotension

 
Major Surgical or Invasive Procedure:
___:
1. Closure of abdominoperineal resection defect with a right 
vertical rectus abdominis muscular cutaneous flap.
2. Ventral hernia repair of pre-existing hernia using Ventralex 
mesh.
3. End colostomy

___ Flap debridement, local flap advancement closure 

Intubation

 
History of Present Illness:
This is a ___ year old woman with a history of afib, HTN, 
multiple myeloma and anal adenocarcinoma T4 diagnosed ___ 
with delayed treatment until progression ___ s/p radiation 
therapy and admitted for planned abdominal/perineal resection 
with small bowel resection with end colostomy, fiducial seed 
placement and perineal closure. There were extensive adhesions 
and it was converted to an open procedure totalling 8 hrs. 
During that time she had 1L estimated blood loss. 6 hrs in, her 
pressures dropped to 60's systolic and she received 4 units 
PRBC, 2 units FFP, albumin, and 6 liters LR. She nevertheless 
required phenylephrine and levophed. There was no significant 
bleeding at closure. She had a perineal flap with subcutaneous 
JP drain on the right, end ostomy, and pelvic JP drain on the 
left. 

In the PACU she remained intubated and continued to be 
hypotensive and received 2 units platelets and 2 units FFP. 
Esmolol gtt was attempted to control RVR to 140's without 
success and was stopped. EKG showed afib with RVR and no 
evidence of ischemia. 

Labs were notable for crit 32->22 post op, platelets dropped to 
39 and INR rose 1.2->2.4. She was transferred to the FICU where 
she had no overt signs of bleeding/oozing but remained 
hypotensive requiring vasopressin addition. A massive 
transfusion protocol was initiated, intraosseous line placed 
while awaiting a trauma line. She was transfused 5 untis of 
blood, ___ with appropriate bump in platelets and improvement 
in INR. 

Phenylephrine was stopped and pressures were maintained with LR 
4L. Urine output dropped to <5cc/hr and lactate uptrended to 8 
with pH 7.15.

ROS: Unable to obtain

 
Past Medical History:
PAST ONCOLOGIC HISTORY:

#ANAL ADENOCA: Per Dr. ___: Admitted to ___ ___ for
BRBPR. Found to have anal adenocarcinoma, T2N0 based on MRI and
CT. Seen by Dr ___ in the hospital from surgery but has
been noncompliant with f/u with her despite multiple outreaches
from her office.

#MM: ___ woman who presented with anemia in ___.  Further testing demonstrated an M-spike of
approximately 3.3 g/dL, IgG was 5800 mg/dL.  Eventually, the
patient was referred to Hematology, IgG increased to 7100mg/dL 
at
the start of treatment.  Initial Hematology consult was ___.  Bone marrow biopsy revealed 60% of her bone marrow
occupied by plasma cells, cytogenetics demonstrated 
translocation
of chromosomes 11 and 14, also monosomy 13.  Skeletal survey was
negative.  Initial beta 2 microglobulin was 4.08, she started
cycle 1 of Revlimid and dexamethasone on ___, 
Revlimid
at 25 mg.  She was admitted to ___ on ___,
with pneumonia, she was also coagulopathic and quite leukopenic. 

She was discharged on ___.  On
___, she presented with severe back pain, and she has
sustained a compression fracture of L3 vertebra.  Her white 
blood
cell count was still low, the Revlimid was held, and restarted 
on
___ at a lower dose of 15 mg, in combination with
weekly dexamethasone at 20 mg.  She was started on Zometa.  The
patient did well on this lower dose of Revlimid with a nice
improvement in her IgG and M-spike, M-spike going down to 1.0
g/dL by ___, and her IgG going into the normal range 
at
the same time, she continued on Revlimid 15 mg every days ___,
with weekly dexamethasone at 20 mg, repeated every month, with
Zometa every 3 months, for quite some time, although by ___, the patient was becoming more leukopenic.  At the start of
cycle 19 of Revlimid and dexamethasone, in ___, the
M-spike was down to 0.6 g/dL, and the Revlimid was reduced to 10
mg per day because of severe neutropenia.  Unfortunately by
___ timeframe, the M-spike started to creep up, to 0.8
g/dL fairly consistently through the ___, and by 
___, at her ___ cycle of Revlimid and dexamethasone, the
M-spike increased to 0.9 g/dL. She was increased to Rev 15 mg 
and
her counts are holding. She reports she missed a month of Rev 
due
to her hospitalization in ___                      Cycle #27 Rev 15mg -Dex
___    Clinic appt start Biaxin
___                      Cycle #28 Rev-Dex
___    Clinic appt reviewed labs M-spike 0.8g/dL
___                      Cycle #29 Rev-Dex
___                      Admitted for hematuria, elevated INR
attributed to Ultram-warfarin interaction
___    Clinic appt Zometa, on cycle #29
___    Cycle #30 Rev-Dex
___    Cycle #31-- decided to continue without a clinic 
appt,
she was having a great time visiting family in ___
___  Cycle #31 day #19
___  Cycle #32
___  Cycle #33 and Zometa
___  Cycle #34 start on ___ end ___. 
___    Cycle #35 start ___ end ___.  M-spike 0.9g/dL
___    Cycle #36, start ___, Zometa, end ___. 
M-spike 0.8g/dL
___    Cycle ___ M-spike 0.9g/dL.  Now ___ years on 
Rev-dex
(first cycle was ___    Cycle ___ M-spike 0.9g/dL IgG stable.  Start Rev ___
___ finish ___                      See me in clinic before cycle #39
start ___ finish ___                      See me in clinic, Zometa, cycle #40
will start ___ ( I am out of office ___
___    Admitted ___ obstructive uropathy and
enterococcal UTI discharged ___ to rehab
___                      ___ 
discharged
___    Touched base by phone, hold Revlimid until next 
follow
up
___                      Cycle #41 start ___ end ___    Stent change scheduled
___                      Cycle #42 planned start
___    Zometa, Previously followed in hem/onc by Dr 
___ today to establish care with me.
___    Cycle 44
___    Cycle 45, zometa
___      Cycle 46
___      Cycle 47, zometa
___         Cycle 48 Rev
___      Cycle 49 rev, zometa
___      Cycle 50 rev
___    Cycle 51 rev
___    Anal cancer - adeno diagnosed

PAST MEDICAL HISTORY:
Hypertension  
Atrial fibrillation on coumadin  
Obesity  
Myeloma    
Osteoarthritis of right knee  
UPJ obstruction s/p stent placement ___ c/b persistent 
Klebsiella bacteruria  
Anal adenocarcinoma (dx ___ 
? Perirectal cyst drainage in ___ 

PSH: 
___ - EUA, biopsy of ___ lesion
___ - cystoscopy and R ureteral stent exchange
___ - lap CCY
Hysterectomy
___ - unknown ___ procedure

 
Social History:
___
Family History:
Her parents died in their ___ or ___ of "old age."  Her parents 
and multiple siblings have hypertension. Sibling with 
Alzheimer's disease. No family history of significant arrhythmia 
or premature coronary disease.

 
Physical Exam:
Physical exam on admission:
=============================
Vitals- T:96.2 BP 60's-110's/30___s-80's HR 110-140's satting 100% 
on the vent 
GENERAL: intubated, sedated  
HEENT: Sclera anicteric  
NECK: Trauma line left IJ, bruising at insertion site  
LUNGS: Good air movement bilaterally with transmitted upper 
airway sounds
CV: Irregular, tachycardic, no S3/S4 appreciated, thready 
peripheral pulses with delayed cap refill, cool
ABD: soft, mildly distended, midline wound vac, ostomy intact 
and dry with dry trochanter sites. LLQ JP draining serosang. 
Right JP drain serosang.  
EXT: Anasarcic, cool, thready pulses. Left ___ finger laxity c/w 
fracture, right shin with IO c/d/i
SKIN: Bruising without petechia, pitting edema

Physical exam on discharge:
=============================

 
Pertinent Results:
Labs on admission:
=======================
___ 06:20PM BLOOD WBC-2.5* RBC-3.24* Hgb-10.0* Hct-30.3* 
MCV-94 MCH-30.9 MCHC-33.0 RDW-19.8* Plt Ct-92*
___ 09:27PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-OCCASIONAL 
Burr-OCCASIONAL
___ 10:32AM BLOOD Neuts-72.4* Lymphs-12.8* Monos-8.7 
Eos-5.5* Baso-0.5
___ 06:20PM BLOOD Plt Smr-LOW Plt Ct-92*
___ 10:32AM BLOOD Plt ___
___ 07:05PM BLOOD ___ PTT-60.4* ___
___ 10:35PM BLOOD ___
___ 06:20PM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-142 K-3.7 
Cl-111* HCO3-26 AnGap-9
___ 09:27PM BLOOD ALT-6 AST-15 LD(LDH)-142 CK(CPK)-74 
AlkPhos-28* TotBili-1.4
___ 06:20PM BLOOD Calcium-8.2* Phos-2.5* Mg-1.9
___ 05:35PM BLOOD Type-ART pO2-248* pCO2-44 pH-7.29* 
calTCO2-22 Base XS--4
___ 05:35PM BLOOD Glucose-138* Lactate-2.3* Na-137 K-4.0 
Cl-114*
___ 05:35PM BLOOD Hgb-8.7* calcHCT-26
___ 05:35PM BLOOD freeCa-1.37*

Reports:
=======================
___: KUB
IMPRESSION:  
No evidence of unanticipated foreign body. 

___: Chest
IMPRESSION:  
ET tube tip is 4.7 cm above the carinal. NG tube tip is 2 
proximal, at the gastroesophageal junction and should be 
advanced. Right internal jugular line tip is in the right 
atrium. 
  
The cardiomediastinal silhouette is substantially increased 
potentially due to very low lung volumes with bibasal 
consolidations. Nodular opacity in the right lower lobe is not 
well seen on the previous examination, might represent summation 
of shadows and should be reassessed on subsequent imaging. The 
findings might in fact represent a combination of low lung 
volumes and mild pulmonary edema. 

___: Hand XR
IMPRESSION:   
There is no evidence of fracture or dislocation.  No osteopenia 
is present. Mild deformity at the distal interphalangeal joint 
of the second finger is present associated with soft tissue 
swelling but no evidence of erosions is present.  First 
carpometacarpal joint osteophytes are present, overall finding 
that are most likely consistent with osteoarthritis. 

___ RUQ U/S:
1. Normal liver echogenicity. 
2. Mild right hydronephrosis with prominent extrarenal pelvis 
and right 
ureteric stent. 

___ CXR:
Dobbhoff tube tip is in the stomach.  Right central venous line 
tip is at the level of the right atrium. No change in large 
bilateral pleural effusions and vascular congestion 
demonstrated. Left PICC line tip is at the level of lower SVC. 

___ CT head:
No acute intracranial process.  If further imaging evaluation is 
indicated, MRI would be more sensitive than CT. 

___ LUE ultrasound:
1. Non-occlusive thrombus in the left internal jugular vein. 
2. Occlusive thrombus around the PICC line in one of the left 
brachial veins. 
No evidence of thrombus around the portion of the PICC line 
within the 
subclavian vein 

Microbiology:
=======================
___ 3:00 pm SWAB      DEEP PERINEAL AEROBIC/ANAEROBIC 
CULTURE. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT in
         this culture.. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------    16 I
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S

   ANAEROBIC CULTURE (Final ___: 
      UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH OF 
SWARMING PROTEUS
      SPP.. 

Labs on discharge:
=======================

 
Brief Hospital Course:
FICU course:
___ F with history of multiple melanoma on revlimid, afib, 
ureteropelvic  obstruction s/p stent ___ c/b persistent 
Klebsiella bacteruria, anal adenocarcinoma with delayed 
treatment s/p radiation ___, s/p planned abdominal/perineal 
resection with small bowel resection with end colostomy, 
fiducial seed placement and perineal closure, transferred to 
FICU for hypotension. Course complicated by AMS due to delirium, 
A fib with RVR, and pseudomonal infection.  She was transferred 
to the floor on ___. Floor course was remarkable for wound 
dehiscence, continued afib with occasional RVR and ongoing 
delirium. 

# Hypotension: Most likely due to volume loss (8hr procedure 
with persistent oozing) compounded by third spacing from SIRS 
DIC response with hypoalbuminemia and anesthesia with delayed 
renal clearance and finaly RVR with poor filling time. Estimated 
blood loss was 1L though poorly quantified given the extent of 
the procedure. Intraop she received 6L crystalloid, 4 PRBC, and 
albumin (by report though unable to find in OMR), and her post 
op crit nevertheless dropped from 32 to 22.  Post op bleeding 
possible with DIC (INR 1.2->2.4) and thrombocytopenia nadir 39, 
though there are no outward signs of blood loss- hemostasis was 
noted at closure, the incisions have been dry with no 
significant drains putting out appropriate though dark 
serosanguanous fluid. Patient required pressor support with 
phenylephrine, noepinephrine, and vasopressin post-operatively. 
Patient was empirically covered with vanc/zosyn briefly, though 
this was discontinued given no clear source of infection. 
Patient experienced recurrent hypotension on ___ after 
returning from OR on ___. This was felt to be due to 
intra-operative blood loss and fluid shifts. She received 1U 
PRBCs on ___ intra-operatively and again on ___ due to drop in 
H/H. BP improved with IVF bolus, blood transfusions, and 
improved control of A fib with RVR.

# DIC: INR rose 1.2-> 2.4, platelets dipped to 39 with 
occasionaly schistos. This is likely from the procedure, no 
evidence of infection, and it appears to have responded to FFP 
with stable fibrinogen not requiring cryo. No evidence of 
petichiae, no appreciable oozing from lines and wounds. SQ 
heparin was discontinued, then restarted on ___ once platelets > 
50. Thrombocytopenia improved during ICU course. It gradually 
resolved and normalized by ___.  

# Afib: Previously on warfarin and rate controlled with dilt, 
bridged with lovenox and dilt recently decreased to 120 due to 
soft systolics during previous admission. Patient was controlled 
with dilt gtt and was also briefly on amiodarone. Patient was 
then transitioned to PO metoprolol and diltiazem for ongoing 
rate control. 

# Anal Mucinous Adenocarcinoma 
Diagnosed in ___. Restaging ___ showed T4 disease extending  
beyond the anal verge, progressing through external muscle of  
anal sphincter, progression from 3 months ago. Per report she is 
status post 5 fractions XRT per Drs. ___, completed 
___. Patient underwent abdominal/perineal resection with small 
bowel resection with end colostomy, fiducial seed placement and 
perineal closure on ___. Underwent flap debridement, local flap 
advancement closure on ___. She was started on ancef on ___ 
per plastic surgery, to be continued until all JP drains 
removed. She was also started on flagyl post-operatively 
___. Deep wound culture from OR on ___ grew Pseudomonas, 
sparse growth, for which she was started on cefepime on ___. She 
was switched to IV cipro based on sensitivities and antibiotics 
were discontinued on ___. The Right side JP was removed on ___ 
as well since the opening of wound exposed the JP to air and was 
not able to hold suction.  The Left side JPs were left in place. 
  

#wound: midline wound dehisced, requiring wet to dry dressing 
changes daily. It is in the proximity of the ostomy and 
application of wound vac would be very difficult to manage at 
this location. we continued with wet to dry dresssing allowing 
it to heal via second intention.
 
#thromboses: patient with new LUE swelling on ___, found to have 
thrombosis associated with PICC on U/S. Also has non-occlussive 
L IJ thrombosis, likely secondary to prior trauma line. 
Discontinued PICC ___ and patient was not anticoagulated, after 
discussion with surgery and heme/onc the decision was not to 
anti-coagulate due to ongoing wound complications and poor 
overall prognosis.   

#AMS: most likely secondary to ICU delirium with waxing and 
waning mental status. Mental status improved significantly 
during ICU course and patient was placed on seroquel qhS PRN.  
This was continued while on the floor. Her mentation did not 
improve much and has ongoing delirium. 

# Lactic acidosis: Combination of tissue disruption from surgery 
and hypoperfusion from above. Lactate improved with improved BP.

#nutrition: patient with low albumin and pre-albumin levels with 
poor nutrtional status likely contributing to poor wound 
healing. She was restarted on TFs post-operatively when cleared 
by surgery. She was seen by ___ who recommended soft solids and 
thin liquids, along with supplemental tube feeds. A dobhoff was 
placed and bridled in the ICU. We continued TF at goal after she 
was transferred to the floor. She tolerated the TF without 
issues.  

# left ___ finger fracture: no op. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Docusate Sodium 200 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Citalopram 10 mg PO DAILY 
4. Dexamethasone 4 mg PO 1X/WEEK (TH) 
5. Psyllium Wafer 1 WAF PO DAILY 
6. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. OxycoDONE (Immediate Release)  15 mg PO QHS 
10. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1. Acetaminophen (Liquid) 1000 mg PO TID 
do not take more than 4,000mg in a single day. Wean as 
tolerated.  
2. Diltiazem 30 mg PO QID 
3. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line flush 

4. Artificial Tears ___ DROP BOTH EYES PRN Dry eyes 
5. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
6. Metoprolol Tartrate 50 mg PO Q6H 
7. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
8. Miconazole Powder 2% 1 Appl TP TID:PRN breast skin irritation 

9. QUEtiapine Fumarate 12.5 mg PO QHS 
10. Citalopram 10 mg PO DAILY 
11. Dexamethasone 4 mg PO 1X/WEEK (TH) 
12. Diltiazem Extended-Release 120 mg PO DAILY 
13. Docusate Sodium 200 mg PO BID 
14. Metoprolol Succinate XL 100 mg PO DAILY 
15. Omeprazole 20 mg PO DAILY 
16. OxycoDONE (Immediate Release)  15 mg PO QHS 
17. Polyethylene Glycol 17 g PO DAILY 
18. Psyllium Wafer 1 WAF PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Locally advanced, distal anorectal cancer status post 
short-course radiation therapy.

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.

Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to the hospital after an open abdominoperineal 
resection and perineal closure with flap for surgical management 
of your advanced anal adenocarcinoma. You are still recovering 
from this procedure and will need additional time for healing at 
a longterm care facility.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel  
movement prior to your discharge which is acceptable, however it 
is important that you have a bowel movement in the next ___ 
days. After anesthesia it is not uncommon for patient’s to have 
some decrease in bowel function but you should not have 
prolonged constipation. Some loose stool and passing of small 
amounts of dark, old appearing blood are expected. However, if 
you notice that you are passing bright red blood with bowel 
movements or having loose stool without improvement please call 
the office or go to the emergency room if the symptoms are 
severe. If you are taking narcotic pain medications there is a 
risk that you will have some constipation. Please take an over 
the counter stool softener such as Colace, and if the symptoms 
do not improve call the office. If you have any of the following 
symptoms please call the office for advice or go to the 
emergency room if severe: increasing abdominal distension, 
increasing abdominal pain, nausea, vomiting, inability to 
tolerate food or liquids, prolonged loose stool, or extended 
constipation.  
 
You have a long vertical incision on your abdomen that is closed 
with staples. This incision can be left open to air or covered 
with a dry sterile gauze dressing if the staples become 
irritated from clothing. The staples will stay in place until 
your first post-operative visit at which time they can be 
removed in the clinic, most likely by the office nurse. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub.  
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.  
 
You will be prescribed a small amount of the pain medication. 
Please take this medication exactly as prescribed. You may take 
Tylenol as recommended for pain. Please do not take more than 
4000mg of Tylenol daily. Do not drink alcohol while taking 
narcotic pain medication or Tylenol. Please do not drive a car 
while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!  
 
Ileostomy Takedown  
 
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. You have tolerated a regular diet, passing 
 
gas and your pain is controlled with pain medications by mouth. 
You may return home to finish your recovery.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel  
movement prior to your discharge which is acceptable, however it 
is important that you have a bowel movement in the next ___ 
days. After anesthesia it is not uncommon for patient’s to have 
some decrease in bowel function but your should not have 
prolonged constipation. Some loose stool and passing of small 
amounts of dark, old appearing blood are expected however, if 
you notice that you are passing bright red blood with bowel your 
please seek medical attention. If you are passing loose stool 
without improvement please call the office or go to the 
emergency room if the symptoms are severe. If you are taking 
narcotic pain medications there is a risk that you will have 
some constipation. Please take an over the counter stool 
softener such as Colace, and if the symptoms does not improve 
call the office. It is also not uncommon after an ileostomy 
takedown to have frequent loose stools until you are taking more 
regular food however this should improve.  
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. Occasionally, patients will need to take a 
medication to slow their bowel movements as their bodies adjust 
to the new normal without an ileostomy, you should consult with 
our office for advice. If you have any of the following symptoms 
please call the office for advice or go to the emergency room if 
 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation.  
 
You have a small wound where the old ileostomy once was. This 
should be covered with a dry sterile gauze dressing. The wound 
no longer requires packing with gauze packing strip. Please  
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may  
shower, let the warm water run over the wound line and pat the 
area dry with a towel, do not rub. Please apply a new gauze 
dressing after showering.  
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.
 
You will be prescribed a small amount of the pain medication. 
Please take this medication exactly as prescribed. You may take 
Tylenol as recommended for pain. Please do not take more than 
3000mg of Tylenol daily. Do not drink alcohol while taking 
narcotic pain medication or Tylenol. Please do not drive a car 
while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck! 
 
Followup Instructions:
___